US08202885B2
To a solution of 295 mg of rac-(1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol in 6.6 mL of DCM was added 1.4 mL of NEt3, 81 mg of DMAP and 0.8 mL of 2-methoxy-2-methyl propanoyl chloride (prepared as in JOC, 1976, 41, 19, 3182-3187) at 0° C. The reaction mixture was allowed to warm up to rt and stirred for 5 min at rt before 0.3 mL of anh. THF was added. The reaction mixture was stirred overnight at 50° C., extracted with DCM and washed with sat. NaHCO3. The organic phase was dried over anh. Na2SO4 and concentrated in vacuo. The crude product was purified by CC using DCM/MeOH/DIPEA 95/5/1 to yield 214 mg of rac-2-methoxy-2-methyl-propionic acid (1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester as white foam.

reactant | rac-(1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 295 mg | COC1=CC=CC=2NC(=NC21)CCCN(CCC2(C1C=C(C(C2)CC1)C1=CC=CC=C1)O)C | C28H35N3O2
reactant | NEt3 | 1.4 mL | CCN(CC)CC | C6H15N
reactant | 2-methoxy-2-methyl propanoyl chloride | 0.8 mL | COC(C(=O)Cl)(C)C | C5H9ClO2
reactant | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | DCM | 6.6 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 81 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | rac-2-methoxy-2-methyl-propionic acid (1R*,2R*,4R*)-2-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | 214 mg | COC1=CC=CC=2NC(=NC21)CCCN(CC[C@]2([C@H]1C=C([C@@H](C2)CC1)C1=CC=CC=C1)OC(C(C)(C)OC)=O)C | C33H43N3O4
